US04435419
To a stirred slurry of 20.6 g. of 1-phenylcyclopropane-1,2-dicarboxylic acid (J. Med. Chem. 24:481) in 25 ml. of concentrated sulfuric acid at 0° C. is added 15 ml. of concentrated nitric acid over 30 minutes. The resultant solution is stirred at ambient temperature for 30 minutes and then poured onto ice. The crystalline product is recrystallized from hexane-ethyl acetate to give 1-(p-nitrophenyl)-cyclopropane-1,2-dicarboxylic acid as colorless crystals.

reactant | 1-phenylcyclopropane-1,2-dicarboxylic acid | C1(=CC=CC=C1)C1(C(C1)C(=O)O)C(=O)O | C11H10O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 1-(p-nitrophenyl)-cyclopropane-1,2-dicarboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1(C(C1)C(=O)O)C(=O)O | C11H9NO6
